US05561130
(a) N-Bromoacetylmethanesulfonamide
Sodium hydride (1.68 g×60%) was added to a stirred solution of methanesulfonamide (2.0 g) in dry tetrahydrofuran (20 ml) at room temperature. The resulting solution was stirred at room temperature for 1 h, at which time it was treated with a solution of bromoacetyl bromide (4.2 g) in dry tetrahydrofuran (10 ml). After 1 h the solvent was removed under reduced pressure and the residue taken up in water and acidified to pH3. The acidic solution was extracted into ethyl acetate, dried (MgSO4), filtered and the solvent removed under reduced pressure. Recrystallisation from isopropanol afforded the product as white needles: mp 112°-114° C.

reactant | Sodium hydride | 1.68 g | [H-].[Na+]
reactant | methanesulfonamide | 2.0 g | CS(=O)(=O)N | CH5NO2S
reactant | bromoacetyl bromide | 4.2 g | BrCC(=O)Br | C2H2Br2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-Bromoacetylmethanesulfonamide | BrCC(=O)NS(=O)(=O)C | C3H6BrNO3S
